US03946009
p-Methoxyphenyl glycinamide (0.10 mole) in 125 ml. methanol cooled to -30°C is treated with a solution of 19.3 g. (0.10 ml.) of 30% glyoxal in 25 ml. methanol also precooled to -30°C. The mixture is stirred and added dropwise during 15-30 minutes to 10 ml (0.125 mole) of 12.5N aqueous sodium hydroxide, the temperature of the reaction mixture being held at -20° to 15°C during this addition. The mixture is refrigerated 1-2 hours at -10°C, then 1 hour at -2° to 3°C, whereupon there is added 12N HCl followed by 5 g. solid sodium bicarbonate to neutralize any excess acid. The solution then is evaporated to dryness and the residue extracted with chloroform. The extracts are evaporated and the product crystallized from a suitable solvent mixture, i.e. chloroform-methanol to give 2-hydroxy-3-p-methoxyphenylpyrazine.

reactant | p-Methoxyphenyl glycinamide | 0.10 mole | COC1=CC=C(C=C1)NCC(=O)N | C9H12N2O2
reactant | glyoxal | 0.10 ml | C(=O)C=O | C2H2O2
reactant | sodium hydroxide | 0.125 mole, 12.5N, 10 ml | [OH-].[Na+]
reactant | HCl | 12N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | CO | CH4O
product | 2-hydroxy-3-p-methoxyphenylpyrazine | OC1=NC=CN=C1C1=CC=C(C=C1)OC | C11H10N2O2
